US08530480B2
5-(2-(4-(2H-Tetrazol-5-yl)phenylamino)pyrimidin-4-yl)-2-(4-hydroxypiperidin-1-yl)benzonitrile
5-2-(4-(2H-Tetrazol-5-yl)phenylamino)pyrimidin-4-yl)-2-(4-hydroxypiperidin-1-yl)benzonitrile was obtained by following procedure E using 5-(2-chloropyrimidin-4-yl)-2-(4-hydroxypiperidin-1-yl)benzonitrile and 4-(2H-tetrazol-5-yl)aniline. 1H NMR (DMSO-d6, 400 MHz) δ 10.09 (s, 1H), 8.61 (d, 1H), 8.50 (d, 1H), 8.38 (dd, 1H), 8.06 (d, 2H), 8.00 (d, 2H), 7.55 (d, 1H), 7.32 (d, 1H), 3.72 (m, 1H), 3.61 (m, 2H), 3.13 (m, 2H), 1.89 (m, 2H), 1.59 (m, 2H). MS (ESI) 440.10 (M+H).

reactant | 5-(2-chloropyrimidin-4-yl)-2-(4-hydroxypiperidin-1-yl)benzonitrile | ClC1=NC=CC(=N1)C=1C=CC(=C(C#N)C1)N1CCC(CC1)O | C16H15ClN4O
reactant | 4-(2H-tetrazol-5-yl)aniline | N=1NN=NC1C1=CC=C(N)C=C1 | C7H7N5
product | 5-(2-(4-(2H-Tetrazol-5-yl)phenylamino)pyrimidin-4-yl)-2-(4-hydroxypiperidin-1-yl)benzonitrile | N=1NN=NC1C1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=CC(=C(C#N)C1)N1CCC(CC1)O | C23H21N9O
